US06977262B2
Ethyl 4-(2,3-dichlorophenyl)-4,7-dihydro-6-phenyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2,3-dichlorobenzaldehyde, 3-aminopyrazole and ethyl benzoylacetate in the same manner as in Example 1.

reactant | 2,3-dichlorobenzaldehyde | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl benzoylacetate | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
product | Ethyl 4-(2,3-dichlorophenyl)-4,7-dihydro-6-phenyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C(C=CC=C1Cl)C1C=2C(NC(=C1C(=O)OCC)C1=CC=CC=C1)=NNC2 | C21H17Cl2N3O2
